US07635741B2
A. Synthesis of 1,3-bis(4-bromophenyl)-2-propanone
To a slurry of sodium hydride (9.17 grams, 0.23 mole) in 50 milliliters of toluene was added dropwise, a solution of ethyl 4-bromophenylacetate (50 grams, 0.21 mole) in toluene (50 milliliters) at 30-32° C. After addition was completed, the reaction mixture was slowly warmed to 50° C. where the reaction began to rapidly exotherm with evolution of hydrogen gas. The reaction mixture was further heated to 78° C. for 2 hours, cooled to room temperature and then HCl (45 grams) in water (22.5 grams) was slowly added dropwise to neutralize the solution. The layers were separated and the aqueous phase was extracted with diethylether. The combined organic extracts were dried and the solvent was removed to leave a yellow oil. This oil was refluxed for 24 hours in a mixture of glacial acid (60 milliliters) and concentrated HCl (30 milliliters). After cooling, the layers were separated, and the organic layer solidified to provide a yellow solid. This crude product was recrystallized from n-heptane to give a pure product as a white solid (31.2 grams, 82% isolated yield).

reactant | sodium hydride | 0.23 mole, 9.17 grams | [H-].[Na+]
reactant | ethyl 4-bromophenylacetate | 0.21 mole, 50 grams | BrC1=CC=C(C=C1)CC(=O)OCC | C10H11BrO2
reactant | hydrogen | [H][H] | H2
reactant | HCl | 45 grams | Cl | ClH
reactant | HCl | 30 milliliters | Cl | ClH
solvent | toluene | 50 milliliters | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 milliliters | C1(=CC=CC=C1)C | C7H8
solvent | water | 22.5 grams | O | H2O
product | 1,3-bis(4-bromophenyl)-2-propanone | 31.2 grams, 82% | BrC1=CC=C(C=C1)CC(CC1=CC=C(C=C1)Br)=O | C15H12Br2O
